US07754737B2
To a solution of TBSCl (12.7 g, 85 mmol) in dichloromethane (20 mL) was added dropwise a mixture of 2-tert-butoxycarbonylamino-3-(4-hydroxy-cyclohexyl)propionic acid methyl ester (17 g, 56 mmol) and imidazole (7.68 g, 113 mmol) in dichloromethane (200 mL) at 0° C. After stirring at rt for 5 h, the reaction mixture was washed with water and brine. The organic layer was dried over Na2SO4 and concentrated to give tert-butyl (S)-1-(methoxycarbonyl)-2-(4-(t-butyldimethylsilyloxy)cyclohexyl)ethylcarbamate (21 g, 91%) that was used in the next step without further purification. 1H NMR (CDCl3, 400 MHz) δ 0.08 (d, 6H), 0.89 (d, 9H), 1.45 (s, 9H), 1.51 (m, 4H), 1.58 (m, 1H), 1.68 (t, 4H), 1.85 (d, 1H) 3.71 (d, 3H), 3.91 (m, 1H), 4.34 (m, 1H), 4.86 (m, 1H).

reactant | TBSCl | 85 mmol, 12.7 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | 2-tert-butoxycarbonylamino-3-(4-hydroxy-cyclohexyl)propionic acid methyl ester | 56 mmol, 17 g | COC(C(CC1CCC(CC1)O)NC(=O)OC(C)(C)C)=O | C15H27NO5
reactant | imidazole | 113 mmol, 7.68 g | N1C=NC=C1 | C3H4N2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | tert-butyl (S)-1-(methoxycarbonyl)-2-(4-(t-butyldimethylsilyloxy)cyclohexyl)ethylcarbamate | 21 g, 91% | COC(=O)[C@H](CC1CCC(CC1)O[Si](C)(C)C(C)(C)C)NC(OC(C)(C)C)=O | C21H41NO5Si
